US07935832B2
A mixture of homophthalic acid [(2-carboxyphenyl)acetic acid] (5 g, 28 mmol), ethanol (23 ml), toluene (12 ml) and concentrated sulphuric acid (0.5 ml) was heated at reflux, using a Dean-Stark apparatus to remove water formed during the reaction, for 6 hrs and then overnight. The mixture was cooled to 20° C., diluted with toluene (˜50 ml) and washed with saturated aqueous sodium hydrogen carbonate solution (˜50 ml). The aqueous layer was separated and extracted with more toluene (˜50 ml) and then the combined toluene washings were washed with saturated aqueous sodium chloride solution and then dried over magnesium sulphate and evaporated. The resulting yellow oil was purified by automated flash silica-gel column chromatography (using a Biotage SP4), eluting with 0-25% gradient of ethyl acetate in hexane (10 column volumes) and then with a 25-50% gradient of ethyl acetate in hexane (2 column volumes), to give ethyl 2-[2-(ethyloxy)-2-oxoethyl]benzoate (5.9 g) as a pale yellow oil.

reactant | homophthalic acid | 28 mmol, 5 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | ethanol | 23 ml | C(C)O | C2H6O
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | toluene | ˜50 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-[2-(ethyloxy)-2-oxoethyl]benzoate | 5.9 g | C(C)OC(CC1=C(C(=O)OCC)C=CC=C1)=O | C13H16O4
